* Z:\celera\projects\Simplis\playbrian\nesto\301a\verification\sim_PADDIGITALOUTtest.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SIMPV 10
.node_map en_out 11
.node_map GND 13
.node_map IN 12
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar TEMP=25
.globalvar VIN=5
.globalvar tdext_khz=1000


X$PADDIGITALOUTtest 10 11 12 13 PADDIGITALOUTtest
X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playbrian\nesto\301a\verification\FORCE_PADDIGITALOUTtest.sxcmp


** From Z:\celera\projects\Simplis\playbrian\nesto\301a\design\PADDIGITALOUTtest.sxcmp
.subckt PADDIGITALOUTtest 129 130 131 132
*#hierarchy
.node_map SIMPV 129
.node_map FAULT2 141
.node_map FAULT3 142
.node_map FAULT6 143
.node_map FAULT7 144
.node_map OUT0 133
.node_map OUT1 134
.node_map OUT2 135
.node_map OUT3 136
.node_map FAULT21 167
.node_map OUT4 137
.node_map FAULT22 166
.node_map OUT5 138
.node_map OUT6 139
.node_map OUT7 140
.node_map OUT8 145
.node_map OUT9 146
.node_map OUT10 147
.node_map OUT11 148
.node_map OUT12 149
.node_map OUT13 150
.node_map OUT14 151
.node_map OUT15 152
.node_map OUT16 157
.node_map OUT17 158
.node_map OUT18 159
.node_map OUT19 160
.node_map en_out 130
.node_map FAULT10 153
.node_map FAULT11 154
.node_map FAULT14 155
.node_map FAULT15 156
.node_map FAULT18 164
.node_map FAULT19 165
.node_map OUT20 161
.node_map GND 132
.node_map IN 131
.node_map OUT21 162
.node_map OUT22 163
X$U1 130 pinprobe vars: pinprobe_description='amplifier_enable' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
X$U10 131 138 130 129 112 paddigitaloutput vars: paddigitaloutput_buffer=500 paddigitaloutput_tristate='yes' paddigitaloutput_faultflag='no' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='yes' paddigitaloutput_testmode='no'
X$U11 131 139 108 129 143 paddigitaloutput vars: paddigitaloutput_buffer=500 paddigitaloutput_tristate='no' paddigitaloutput_faultflag='yes' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='yes' paddigitaloutput_testmode='no'
X$U12 131 140 130 129 144 paddigitaloutput vars: paddigitaloutput_buffer=10 paddigitaloutput_tristate='yes' paddigitaloutput_faultflag='yes' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='yes' paddigitaloutput_testmode='no'
X$U13 131 145 113 129 117 paddigitaloutput vars: paddigitaloutput_buffer=10 paddigitaloutput_tristate='no' paddigitaloutput_faultflag='no' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='no' paddigitaloutput_testmode='input'
X$U14 131 146 130 129 118 paddigitaloutput vars: paddigitaloutput_buffer=500 paddigitaloutput_tristate='yes' paddigitaloutput_faultflag='no' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='no' paddigitaloutput_testmode='input'
X$U15 131 147 114 129 153 paddigitaloutput vars: paddigitaloutput_buffer=500 paddigitaloutput_tristate='no' paddigitaloutput_faultflag='yes' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='no' paddigitaloutput_testmode='input'
X$U16 131 148 130 129 154 paddigitaloutput vars: paddigitaloutput_buffer=10 paddigitaloutput_tristate='yes' paddigitaloutput_faultflag='yes' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='no' paddigitaloutput_testmode='input'
X$U17 131 149 115 129 119 paddigitaloutput vars: paddigitaloutput_buffer=10 paddigitaloutput_tristate='no' paddigitaloutput_faultflag='no' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='yes' paddigitaloutput_testmode='input'
X$U18 131 150 130 129 120 paddigitaloutput vars: paddigitaloutput_buffer=500 paddigitaloutput_tristate='yes' paddigitaloutput_faultflag='no' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='yes' paddigitaloutput_testmode='input'
X$U19 131 151 116 129 155 paddigitaloutput vars: paddigitaloutput_buffer=500 paddigitaloutput_tristate='no' paddigitaloutput_faultflag='yes' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='yes' paddigitaloutput_testmode='input'
X$U2 129 pinprobe vars: pinprobe_description='5V_supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U20 131 152 130 129 156 paddigitaloutput vars: paddigitaloutput_buffer=10 paddigitaloutput_tristate='yes' paddigitaloutput_faultflag='yes' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='yes' paddigitaloutput_testmode='input'
X$U21 131 157 121 129 125 paddigitaloutput vars: paddigitaloutput_buffer=10 paddigitaloutput_tristate='no' paddigitaloutput_faultflag='no' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='no' paddigitaloutput_testmode='output'
X$U22 131 158 130 129 126 paddigitaloutput vars: paddigitaloutput_buffer=500 paddigitaloutput_tristate='yes' paddigitaloutput_faultflag='no' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='no' paddigitaloutput_testmode='output'
X$U23 131 159 122 129 164 paddigitaloutput vars: paddigitaloutput_buffer=500 paddigitaloutput_tristate='no' paddigitaloutput_faultflag='yes' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='no' paddigitaloutput_testmode='output'
X$U24 131 160 130 129 165 paddigitaloutput vars: paddigitaloutput_buffer=10 paddigitaloutput_tristate='yes' paddigitaloutput_faultflag='yes' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='no' paddigitaloutput_testmode='output'
X$U25 131 161 123 129 127 paddigitaloutput vars: paddigitaloutput_buffer=10 paddigitaloutput_tristate='no' paddigitaloutput_faultflag='no' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='yes' paddigitaloutput_testmode='output'
X$U26 131 162 130 129 128 paddigitaloutput vars: paddigitaloutput_buffer=500 paddigitaloutput_tristate='yes' paddigitaloutput_faultflag='no' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='yes' paddigitaloutput_testmode='output'
X$U27 131 163 124 129 166 paddigitaloutput vars: paddigitaloutput_buffer=500 paddigitaloutput_tristate='no' paddigitaloutput_faultflag='yes' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='yes' paddigitaloutput_testmode='output'
X$U28 131 162 130 129 167 paddigitaloutput vars: paddigitaloutput_buffer=10 paddigitaloutput_tristate='yes' paddigitaloutput_faultflag='yes' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='yes' paddigitaloutput_testmode='output'
X$U3 131 pinprobe vars: pinprobe_description='amplifier_input' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd'
X$U4 132 pinprobe vars: pinprobe_description='GND' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U5 131 133 105 129 109 paddigitaloutput vars: paddigitaloutput_buffer=10 paddigitaloutput_tristate='no' paddigitaloutput_faultflag='no' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='no' paddigitaloutput_testmode='no'
X$U6 131 134 130 129 110 paddigitaloutput vars: paddigitaloutput_buffer=500 paddigitaloutput_tristate='yes' paddigitaloutput_faultflag='no' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='no' paddigitaloutput_testmode='no'
X$U7 131 135 106 129 141 paddigitaloutput vars: paddigitaloutput_buffer=500 paddigitaloutput_tristate='no' paddigitaloutput_faultflag='yes' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='no' paddigitaloutput_testmode='no'
X$U8 131 136 130 129 142 paddigitaloutput vars: paddigitaloutput_buffer=10 paddigitaloutput_tristate='yes' paddigitaloutput_faultflag='yes' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='no' paddigitaloutput_testmode='no'
X$U9 131 137 107 129 111 paddigitaloutput vars: paddigitaloutput_buffer=10 paddigitaloutput_tristate='no' paddigitaloutput_faultflag='no' paddigitaloutput_faultflag_filter=1 paddigitaloutput_vmax=6 paddigitaloutput_dft='yes' paddigitaloutput_testmode='no'
.ends PADDIGITALOUTtest

.end
